US08106070B2
Pd(PPh3)4 (196 mg) was added to a solution of 2-bromo-5-fluoropyridine in DME (10 mL) at ambient temperature. After heating at 90° C. overnight the reaction mixture was cooled. 2-[1-(4-bromobenzyl)vinyl]-4-(2,2-dimethylpropyl)-N,N-dimethyl-1H-imidazole-1-sulfonamide (110 mg) was added to the stannane solution followed by Pd(PPh3)4 (100 mg). After stirring at 95° C. overnight, the reaction mixture was cooled, diluted with ethyl acetate and washed with water. The organic phase was dried (sodium sulfate) and concentrated. Chromatography of the resulting crude product over silica eluting with 0-50% ethyl acetate/hexanes afforded 4-(2,2-dimethylpropyl)-2-{1-[4-(5-fluoropyridin-2-yl)benzyl]vinyl}-N,N-dimethyl-1H-imidazole-1-sulfonamide.

reactant | 2-bromo-5-fluoropyridine | BrC1=NC=C(C=C1)F | C5H3BrFN
reactant | 2-[1-(4-bromobenzyl)vinyl]-4-(2,2-dimethylpropyl)-N,N-dimethyl-1H-imidazole-1-sulfonamide | 110 mg | BrC1=CC=C(CC(=C)C=2N(C=C(N2)CC(C)(C)C)S(=O)(=O)N(C)C)C=C1 | C19H26BrN3O2S
reactant | stannane | [SnH4]
solvent | DME | 10 mL | COCCOC | C4H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd(PPh3)4 | 196 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | Pd(PPh3)4 | 100 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(2,2-dimethylpropyl)-2-{1-[4-(5-fluoropyridin-2-yl)benzyl]vinyl}-N,N-dimethyl-1H-imidazole-1-sulfonamide | CC(CC=1N=C(N(C1)S(=O)(=O)N(C)C)C(=C)CC1=CC=C(C=C1)C1=NC=C(C=C1)F)(C)C | C24H29FN4O2S
